US07109225B2
c] (2-Cyclohexyl-5-methyl-oxazol-4-yl)-acetonitrile
To 1.464 g of NaCN (29.88 mmol), dissolved in 20 ml of DMSO, was slowly added via dropping funnel 4.12 g of the above prepared 4-chloromethyl-2-cyclohexyl-5-methyl-oxazole (19.28 mmol) at such a rate that the internal temperature stayed at 25–30°. Stirring was continued for additional 2 h at 35°. The reaction mixture was then poured onto crashed ice/AcOEt, the organic layer washed with water, dried over sodium sulfate, and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=8/2) gave 1.900 g of the title compound as colorless liquid.

reactant | NaCN | 29.88 mmol, 1.464 g | [C-]#N.[Na+]
reactant | 4-chloromethyl-2-cyclohexyl-5-methyl-oxazole | 19.28 mmol | ClCC=1N=C(OC1C)C1CCCCC1 | C11H16ClNO
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | (2-Cyclohexyl-5-methyl-oxazol-4-yl)-acetonitrile | 1.900 g | C1(CCCCC1)C=1OC(=C(N1)CC#N)C | C12H16N2O
